US07915271B2
Step B: Methyl 4-(aminocarbonothioyl)-3-methylbenzoate
To a solution of methyl 4-cyano-3-methylbenzoate (36 mg, 0.205 mmol) in 1,4-dioxane (0.5 mL) and water (0.500 mL), was added sodium hydrogen sulfide (0.019 mL, 0.616 mmol) and triethylamine hydrochloride (170 mg, 1.233 mmol). The reaction mixture was heated at 55° C. overnight. The reaction was allowed to cool and water was added. The mixture was extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and the solvent was evaporated in vacuo to give the product as a yellow solid. LCMS calc.=210.1; found=210.2 (M+1)+. 1H NMR (500 MHz, CDCl3) 7.86 (s, 1H); 7.84 (d, J=8.1 Hz, 1H); 7.42 (d, J=7.9 Hz, 1H); 7.16 (s, 2H); 3.93 (s, 3H); 2.51 (s, 3H).

reactant | methyl 4-cyano-3-methylbenzoate | 0.205 mmol, 36 mg | C(#N)C1=C(C=C(C(=O)OC)C=C1)C | C10H9NO2
reactant | sodium hydrogen sulfide | 0.616 mmol, 0.019 mL | S.[Na]
reactant | triethylamine hydrochloride | 1.233 mmol, 170 mg | Cl.C(C)N(CC)CC
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.500 mL | O | H2O
product | Methyl 4-(aminocarbonothioyl)-3-methylbenzoate | NC(=S)C1=C(C=C(C(=O)OC)C=C1)C | C10H11NO2S
